US08067420B2
To a solution of dibenzyl 3,3-difluoro-1-((2-methoxy-4-(2-oxo-3-(4-(trifluoromethoxy)phenylthio)pyrazin-1(2H)-yl)phenoxy)methyl)cyclobutyl phosphate (79 mg, 0.100 mmol) in TFA (2 mL) was stirred at RT for 3.5 hours. The mixture was concentrated. The crude product was purified by prep-HPLC (Phenomenex, Luna 5 micron 25×250 mm, flow rate 30 ml/min., gradient=20% A to 100% B in 10 min., A=90% H2O/10% MeOH/0.1% TFA, B=10% H2O/90% MeOH/0.1% TFA). Yield 46 mg, 0.075 mmol. as yellow gum. The yellow gum in ACN (2 ml) was added 0.5 N aqueous sodium bicarbonate (302 μl, 0.151 mmol.), the mixture was diluted with water (5 ml). The solution was then lypholized. Yield sodium 3,3-difluoro-1-((2-methoxy-4-(2-oxo-3-(4-(trifluoromethoxy)phenylthio)pyrazin-1(2H)-yl)phenoxy)methyl)cyclobutyl phosphate (51.08 mg, 0.078 mmol, 78% yield) as off-white powder. MS (M+H-611). 1H NMR (400 MHz, MeOD) δ ppm 7.54-7.63 (2 H, m), 7.19-7.33 (3H, m), 7.02-7.17 (3H, m), 6.91 (1H, dd, 3=8.44, 2.39 Hz), 4.28 (2H, s), 3.80 (3H, s), 3.13-3.32 (2H, m), 2.75-2.90 (2H, m).

reactant | dibenzyl 3,3-difluoro-1-((2-methoxy-4-(2-oxo-3-(4-(trifluoromethoxy)phenylthio)pyrazin-1(2H)-yl)phenoxy)methyl)cyclobutyl phosphate | 0.100 mmol, 79 mg | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OC1(CC(C1)(F)F)COC1=C(C=C(C=C1)N1C(C(=NC=C1)SC1=CC=C(C=C1)OC(F)(F)F)=O)OC | C37H32F5N2O8PS
reactant | sodium bicarbonate | 0.151 mmol, 0.5 N, 302 μl | C([O-])(O)=O.[Na+]
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | ACN | 2 ml | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
product | sodium 3,3-difluoro-1-((2-methoxy-4-(2-oxo-3-(4-(trifluoromethoxy)phenylthio)pyrazin-1(2H)-yl)phenoxy)methyl)cyclobutyl phosphate | 0.078 mmol, 51.08 mg, 78% yield | P(=O)(OC1(CC(C1)(F)F)COC1=C(C=C(C=C1)N1C(C(=NC=C1)SC1=CC=C(C=C1)OC(F)(F)F)=O)OC)([O-])[O-].[Na+].[Na+] | InChI=1S/C23H20F5N2O8PS.2Na/c1-35-18-10-14(2-7-17(18)36-13-21(38-39(32,33)34)11-22(24,25)12-21)30-9-8-29-19(20(30)31)40-16-5-3-15(4-6-16)37-23(26,27)28;;/h2-10H,11-13H2,1H3,(H2,32,33,34);;/q;2*+1/p-2
